US08044075B2
3-{[(5-cyclopentyl-1,3,4-thiadiazol-2-yl)amino]carbonyl}-4-fluorobenzenesulfonyl chloride was prepared from N-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-2-fluorobenzamide using a Biotage Initiator 8 microwave set to high absorbance as follows. Using conditions described, the reaction reached a pressure of 12 barr. The pressure was reduced to 3 barr after cooling and was vented prior to decapping the reaction vessel. To a 5 ml Biotage microwave reaction tube was added N-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-2-fluorobenzamide (0.305 g, 1.05 mmol) and a Teflon covered magnetic stir-bar. To this was added 2 ml of chlorosulfuric acid. The vessel was capped and heated to 200° C. for 3.25 min. After cooling to room temperature, the remaining pressure was vented into a 50 ml syringe and discharged into 30 ml 1M NaOH. Reaction was quenched by adding dropwise to 30 ml of crushed ice-water while stirring. The solid product was collected by vacuum filtration, washed with water (5 ml, 3×) and air-dried under vacuum, yielding 3-{[(5-cyclopentyl-1,3,4-thiadiazol-2-yl)amino]carbonyl}-4-fluorobenzenesulfonyl chloride as a off white solid (290 mg, 71%), Crude product was used to next step.

reactant | N-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-2-fluorobenzamide | C1(CCCC1)C1=NN=C(S1)NC(C1=C(C=CC=C1)F)=O | C14H14FN3OS
reactant | N-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-2-fluorobenzamide | 1.05 mmol, 0.305 g | C1(CCCC1)C1=NN=C(S1)NC(C1=C(C=CC=C1)F)=O | C14H14FN3OS
reactant | chlorosulfuric acid | 2 ml | S(O)(=O)(=O)Cl | ClHO3S
solvent | NaOH | 1M, 30 ml | [OH-].[Na+]
product | 3-{[(5-cyclopentyl-1,3,4-thiadiazol-2-yl)amino]carbonyl}-4-fluorobenzenesulfonyl chloride | C1(CCCC1)C1=NN=C(S1)NC(=O)C=1C=C(C=CC1F)S(=O)(=O)Cl | C14H13ClFN3O3S2
